US05858995
A solution of 3-(2-ethoxycarbonyl-3-oxobutyl)-2-methyl-7-nitrobenzo[b]furan (170 mg) in a mixture of ethanol (5 ml) and aqueous 1N-sodium hydroxide (5 ml) was refluxed for 1 hour. The reaction mixture was cooled and the separated solid was collected, washed with water and dried to give 2-methyl-7-nitro-3-(3-oxobutyl)benzo[b]furan (105 mg).

reactant | 3-(2-ethoxycarbonyl-3-oxobutyl)-2-methyl-7-nitrobenzo[b]furan | 170 mg | C(C)OC(=O)C(CC=1C2=C(OC1C)C(=CC=C2)[N+](=O)[O-])C(C)=O | C16H17NO6
reactant | sodium hydroxide | 5 ml | [OH-].[Na+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 2-methyl-7-nitro-3-(3-oxobutyl)benzo[b]furan | 105 mg | CC1=C(C2=C(O1)C(=CC=C2)[N+](=O)[O-])CCC(C)=O | C13H13NO4
